US05286725
1,4-bis(Hydroxymethyl)cyclohexane (5 g, 0.0347 mol), cis/trans mixture 1:3, in anhydrous DMF (20 cm3) was added dropwise to NaH (1.6 g, 0.0366 mol, 55%) washed with hexane, under atmosphere of nitrogen. The mixture was stirred at room temperature for 1/2 h, then CH3I (5 g, 0.0352 mol) dissolved in DMF (20 cm3) was added dropwise. After the addition was complete the solution was stirred at room temperature for 2 h; NH4Cl solution was added then thoroughly extracted with ether, to which Na2SO4 was added and dried under reduced pressure. Chromatography on silica gel eluting with hexane/ethyl acetate (55/45) gave 4-methoxymethyl-cyclohexylmethanol (1.8 g, 0.0113 mol) out of 4.1 g of residue. Such compound was dissolved in ether (10 cm3), cooled to -70° C. and was added dropwise with PBr3 (1.2 g, 0.0044 mol). After the addition was complete the solution was stirred to room temperature for 2 h, was extracted with ether and cautiously added with satured NaHCO3 solution. After the two layers were separated, the organic phase was added with Na2SO4 and dried under reduced pressure. Chromatography on silica gel eluting with hexane gave 4-methoxymethyl cyclohexylmethyl bromide, cis trans mixture 1 3. Such product was employed in the example 8.

reactant | 1,4-bis(Hydroxymethyl)cyclohexane | 0.0347 mol, 5 g | OCC1CCC(CC1)CO | C8H16O2
reactant | NaH | 0.0366 mol, 1.6 g | [H-].[Na+]
reactant | CH3I | 0.0352 mol, 5 g | CI | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 20 cm3 | CN(C)C=O | C3H7NO
solvent | DMF | 20 cm3 | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-methoxymethyl-cyclohexylmethanol | 0.0113 mol, 1.8 g | COCC1CCC(CC1)CO | C9H18O2
